US06200998B1
Step A: Preparation of 2-Propyl-4-(4′-methylphenoxy)phenol
A solution of 4-(4′-methylphenoxy)-2-allylphenol (2.30 g, 9.42 mmol) and 5% Pd/C (0.90 g) in ethyl acetate (30 mL) was stirred under H2 atmosphere for 3 h at room temperature. The reaction mixture was filtered through a short pad of silica gel and concentrated in vacuo to afford the title compound which was used as is. 1H NMR (400 MHz, CDCl3): δ 7.19 (d, 2H), 6.86 (d, 1H), 6.83 (dd, 2H), 6.72 (d, 2H), 4.61 (s, 1H), 2.53 (t, 2H), 2.30 (s, 3H), 1.61 (hex, 2H), 0.96 (t, 3H).

reactant | 4-(4′-methylphenoxy)-2-allylphenol | 9.42 mmol, 2.30 g | CC1=CC=C(OC2=CC(=C(C=C2)O)CC=C)C=C1 | C16H16O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.90 g | [Pd] | Pd
product | 2-Propyl-4-(4′-methylphenoxy)phenol | C(CC)C1=C(C=CC(=C1)OC1=CC=C(C=C1)C)O | C16H18O2
